US09034866B2
Synthesis of 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide
3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was prepared similarly according to General Procedure G with slight modifications. 10-bromo-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide was reacted with 3-methyl-1-butyne-3-ol to afford 26 mg of the titled compound (28.6% yield). M+1=438.0. 1H NMR (400 MHz, DMSO-d6) δ 8.63 (d, J=8.3 Hz, 1H), 7.99 (br s, 1H), 7.52 (br s, 1H), 7.07 (d, J=10.5 Hz, 1H), 5.56 (s, 1H), 4.58-4.51 (m, 4H), 2.28-2.19 (m, 1H), 1.49 (s, 6H), 1.19-1.09 (m, 2H), 1.03-0.97 (m, 2H).

reactant | 10-bromo-3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C3=NC(=NO3)C3CC3)C1)F | C17H13BrFN5O3
reactant | 3-methyl-1-butyne-3-ol | CC(C#C)(C)O | C5H8O
product | 3-(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 26 mg, 28.6% yield | C1(CC1)C1=NOC(=N1)C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#CC(C)(C)O)C(=O)N | C22H20FN5O4
